US05061705
A solution of 19.4 g (0.1 mole) of dimethyl terephthalate and 23 g (0.1 mole) of 6-acetyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene in a mixture of 80 ml of toluene and 20 ml of dimethoxyethane was added dropwise at 100° C. to a suspension of 6.3 g (0.15 mole) of sodium hydride in 21 ml of toluene under nitrogen. The reaction mixture was refluxed with stirring for 5 hours and then cooled, after which 50 ml of water were added and the mixture was acidified with semiconcentrated hydrochloric acid, poured onto 500 ml of water and extracted with chloroform. The product which had already precipitated was filtered off under suction, and the chloroform phase was dried over sodium sulfate and evaporated down. The residue and the crude product filtered off under suction beforehand were combined and were extracted several times with hot methanol. After the remaining crystals had been dried, 22.1 g of 1-(4-carbomethoxyph-enyl)-3-(5,6,7,8-tetrahydro- 5,5,8,8-tetramethyl-2-naphthalenyl)-propane-1,3-dione of melting point 128° C. were obtained.

reactant | dimethyl terephthalate | 0.1 mole, 19.4 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | 6-acetyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene | 0.1 mole, 23 g | C(C)(=O)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C16H22O
reactant | sodium hydride | 0.15 mole, 6.3 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | toluene | 21 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 500 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 1-(4-carbomethoxyph-enyl)-3-(5,6,7,8-tetrahydro- 5,5,8,8-tetramethyl-2-naphthalenyl)-propane-1,3-dione | 22.1 g | C(=O)(OC)C1=CC=C(C=C1)C(CC(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)=O | C25H28O4
